US06608095B2
4-[5-[4-(2-Furyl)-3-methylphenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-phenylsulfonamide (step 4)
To a stirred soluition of 4,4,4-trifluoro-1-[4-(2-furyl)-3-methylphenyl]butane-1,3-dione (0.53 g, 1.80 mmol) in ethanol (22.5 ml) was added (4-sulfamoylphenyl)hydrazine hydrochloride (0.44 ml, 1.98 mmol), and the mixture was heated at reflux temperature for 16 hours. The mixture was cooled down to room temperature, and concentrated in vacuo. The residue was dissolved in ethyl acetate. washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate/hexane (1/3). The resulting solid was recrystallized with dichloromethane-hexane to give the title compound (0.16 g, 20% yield).

reactant | 4,4,4-trifluoro-1-[4-(2-furyl)-3-methylphenyl]butane-1,3-dione | 1.80 mmol, 0.53 g | FC(C(CC(=O)C1=CC(=C(C=C1)C=1OC=CC1)C)=O)(F)F | C15H11F3O3
reactant | (4-sulfamoylphenyl)hydrazine hydrochloride | 1.98 mmol, 0.44 ml | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
solvent | ethanol | 22.5 ml | C(C)O | C2H6O
product | 4-[5-[4-(2-Furyl)-3-methylphenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-phenylsulfonamide | 0.16 g, 20% yield | O1C(=CC=C1)C1=C(C=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F)C | C21H16F3N3O3S
